* C:\Users\Andrea\Documents\LTspice\DC_CDI_inputFilter.asc
C1 N022 N021 10µ
R1 N022 REF 17.4k
R2 N004 N005 2.87k
R3 REF N004 6.98k
XU1 N022 N004 V+ 0 N005 ADA4511
C2 N019 N005 10µ
C3 N020 N019 10µ
R4 N008 N019 14k
R5 N020 REF 26.7k
XU2 N020 N008 V+ 0 N008 ADA4511
R6 N018 N017 7.68k
R7 N017 N008 3.09k
C4 N018 REF 10n
C5 N003 N017 100n
XU3 N018 N003 V+ 0 N003 AD8676
V1 V+ 0 5
V2 REF 0 2.5
R8 N014 N013 3.57k
R9 N013 N007 1.65k
C6 N014 REF 56n
C7 N002 N013 100n
XU4 N014 N002 V+ 0 N002 AD8676
R10 N012 N011 3.16k
R11 N011 N002 1.5k
C8 N012 REF 75n
C9 N001 N011 100n
XU5 N012 N001 V+ 0 N001 AD8676
R12 N010 N009 2.67k
R13 N009 N001 1.5k
C10 N010 REF 91n
C11 OUT N009 100n
XU6 N010 OUT V+ 0 OUT AD8676
R14 N016 N015 115k
R15 N015 N003 1.13k
C12 N016 REF 2.2n
C13 N007 N015 100n
R16 N006 N007 2.87k
R17 REF N006 6.98k
XU7 N016 N006 V+ 0 N007 AD8676
XU8 N024 N023 V+ 0 REF AD8031
R18 V+ N024 10k
R19 N024 0 10k
C14 N024 0 10µ
C15 N024 0 100n
C16 REF 0 10µ
C17 REF 0 100n
R20 REF N023 4.7k
V3 N021 0 AC 1 0
.ac dec 100 1m 10k
.lib AD8676.lib
.lib ADA4511.lib
.lib ADI.lib
.backanno
.end
