* C:\Program Files\LTC\LTspiceIV\My Drawings\My SCR master-1.asc

******************************************************
* Model generated on 17 Dec 2009
* Model format: LTspice
* Thyristor / SCR macro model
* External node designations
* Node A -> anode
* Node G -> gate
* Node K -> cathode
*
* The parameters are:
* Vdrm - forward / reverse breakdown Voltage.
* Itrms - r.m.s. anode current.
* Itsm - max. non-repetitive peak anode current.
* Igt - min. gate trigger current.
* Vgt - min. gate Voltage.
* Ihold - min. anode current below which device will
* switch off.
* Ileak - forward / reverse leakage current @ Vdrm.
* Cak - anode to cathode capacitance.
* GRratio - use to trim exact Vgt versus Igt.
*
* The params below are typical or worst case examples
* as stated in the manufacturers datasheets. This
* means if you design for that then a real one should
* work!
*
* Double-click on the SpiceModel line in properties
* box to see a drop-down select list of the following
* types.
******************************************************

.SUBCKT 2N5061 A G K ; Motorola 2N5061 - model default
+params: Vdrm=60 Itrms=0.8A Itsm=10A Igt=200uA Vgt=0.8
+ Ihold=5mA Ileak=50uA Cak=50pF GRratio=4

Q1 2 G K 0 QNG
Q2 1 3 K 0 QNL OFF
Q3 3 1 A 0 QPL OFF
D1 1 2 Drev
D2 A 4 DVA
D3 K 4 DVA
I1 A 1 {Ihold} load
I2 3 K {Ihold} load
RS A 1 1000k
RL A K {Rleak}
C1 A K {Cak}

.param Grbe=(Vgt/Igt)/GRratio
.param Ggain=Ihold/Igt
.param Rleak=Vdrm/Ileak

.model QNL NPN(IS=640F Bf=50 RC=.45 TF=5.95u)
.model QNG NPN(Bf=Ggain Rb=Grbe Vje=Vgt Tf=.3nS Tr=6nS Cje=2pF Cjc=1pF)
.model QPL PNP(IS=640F Bf=50 RC=.45 TF=5.95u)
.model DVA D(Vj=.71 BV=Vdrm Cjo=1p)
.model Drev D(Vfwd=.71)
.ENDS

.SUBCKT TYN225 A G K ; ST TYN225
XSCR1 A G K 2N5061
+params: Vdrm=200 Itrms=25 Itsm=300 Igt=40mA Vgt=1.3
+ Ihold=50mA Ileak=4mA GRratio=2
.ENDS


.SUBCKT TYN825RG A G K ; ST TYN825RG
XSCR1 A G K 2N5061
+params: Vdrm=800 Itrms=25 Itsm=300 Igt=40mA Vgt=1.3
+ Ihold=50mA Ileak=4mA GRratio=2
.ENDS


.SUBCKT C106D A G K ; Fagor C106D1 & ON Semiconductor C106D
XSCR1 A G K 2N5061
+params: Vdrm=400 Itrms=4 Itsm=20 Igt=200uA Vgt=0.8
+ Ihold=5mA Ileak=400uA
.ENDS


.SUBCKT FS0831DH A G K ; Fagor FS0831DH
XSCR1 A G K 2N5061
+params: Vdrm=400 Itrms=8 Itsm=95 Igt=15mA Vgt=1.3
+ Ihold=30mA Ileak=100uA GRratio=2
.ENDS


.SUBCKT C106M A G K ; ON Semiconductor C106M
XSCR1 A G K 2N5061
+params: Vdrm=600 Itrms=4 Itsm=20 Igt=35uA Vgt=0.75
+ Ihold=6mA Ileak=100uA
.ENDS


.SUBCKT BT151-800R A G K ; Philips BT151-800R
XSCR1 A G K 2N5061
+params: Vdrm=800 Itrms=12 Itsm=120 Igt=15mA Vgt=1.5
+ Ihold=20mA Ileak=500uA GRratio=3
.ENDS


.SUBCKT 2N6509G A G K ; ON Semiconductor 2N6509G
XSCR1 A G K 2N5061
+params: Vdrm=800 Itrms=25 Itsm=250 Igt=75mA Vgt=1.5
+ Ihold=80mA Ileak=2mA GRratio=2
.ENDS


.SUBCKT FS2510NH A G K ; Fagor FS2510NH
XSCR1 A G K 2N5061
+params: Vdrm=400 Itrms=25 Itsm=270 Igt=40mA Vgt=1.3
+ Ihold=50mA Ileak=2mA GRratio=2
.ENDS
